US04659727
A mixture of 5-chloro-2-(methylamino)pyridine (0.41 g), 2-ethoxy-1,1-bis(phenylsulphonyl)ethene and concentrated hydrochloric acid (1 drop) in toluene (20 ml) was heated at reflux for 4 hours and then the mixture was treated with 1,5-diazabicyclo[4.3.0]-non-5-ene (3 drops) and heated at reflux for 18 hours. The reaction mixture was cooled and concentrated in vacuo to give an oil which was triturated with ethanol to give a brown solid which was recrystallised from toluene to give 1,1-bis(phenylsulphonyl)-2-[N-(5-chloropyrid-2-yl)-N-methylamino]ethene (0.2 g), mp. 205°-206° C.

reactant | 5-chloro-2-(methylamino)pyridine | 0.41 g | ClC=1C=CC(=NC1)NC | C6H7ClN2
reactant | 2-ethoxy-1,1-bis(phenylsulphonyl)ethene | C(C)OC=C(S(=O)(=O)C1=CC=CC=C1)S(=O)(=O)C1=CC=CC=C1 | C16H16O5S2
catalyst | hydrochloric acid | 1 drop | Cl | ClH
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
catalyst | 1,5-diazabicyclo[4.3.0]-non-5-ene | 3 drops | N12CCCN=C2CCC1 | C7H12N2
product | 1,1-bis(phenylsulphonyl)-2-[N-(5-chloropyrid-2-yl)-N-methylamino]ethene | 0.2 g | C1(=CC=CC=C1)S(=O)(=O)C(=CN(C)C1=NC=C(C=C1)Cl)S(=O)(=O)C1=CC=CC=C1 | C20H17ClN2O4S2
